US04914112
To 2-phenylacetamido-4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazole (1.00 g, 2.51 mmol) in tetrahydrofuran (20 ml) was added lithium aluminu hydride (150 mg) by portion, then the mixture was refluxed for 2 hr. After cooling, the reaction mixture was filterated and evaporated under reduced pressure to a residue. The residue was extracted with chloroform and the extracts were washed with water, dried, then evaporated under reduced pressure to a residue, which chromatographed and recrystallized to afford 4-(1-(2-fluoro-4-biphenylyl)ethyl)-2-phenethylaminothiazole (504 mg, 50% yield): mp 74.5°-75.5° C.

reactant | 2-phenylacetamido-4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazole | 2.51 mmol, 1.00 g | C1(=CC=CC=C1)CC(=O)NC=1SC=C(N1)C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C25H21FN2OS
reactant | lithium | [Li] | Li
reactant | hydride | 150 mg | [H-]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(1-(2-fluoro-4-biphenylyl)ethyl)-2-phenethylaminothiazole | 504 mg, 50% yield | FC1=C(C=CC(=C1)C(C)C=1N=C(SC1)NCCC1=CC=CC=C1)C1=CC=CC=C1 | C25H23FN2S
